US08835648B2
1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidine-4-carboxylic acid hydrochloride
Method 11—Step b A mixture of 1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidine-4-carboxylic acid ethyl ester (3.10 g, 8.54 mmol) in 6N HCl (25.0 mL) was heated in microwave at 120° C. for 20 minutes. Then solvent was removed to obtain the title compound in quantitative yield.

reactant | 1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidine-4-carboxylic acid ethyl ester | 8.54 mmol, 3.10 g | C(C)OC(=O)C1CCN(CC1)C1=CC(=CC=C1)C1=NC2=C(N1C)C=CC=C2 | C22H25N3O2
reactant | HCl | 6N, 25.0 mL | Cl | ClH
product | 1-[3-(1-Methyl-1H-benzoimidazol-2-yl)-phenyl]-piperidine-4-carboxylic acid hydrochloride | quantitative yield | Cl.CN1C(=NC2=C1C=CC=C2)C=2C=C(C=CC2)N2CCC(CC2)C(=O)O | InChI=1S/C20H21N3O2.ClH/c1-22-18-8-3-2-7-17(18)21-19(22)15-5-4-6-16(13-15)23-11-9-14(10-12-23)20(24)25;/h2-8,13-14H,9-12H2,1H3,(H,24,25);1H
